US05580872
Step 2: 5-Nitro-2-picoline
A suspension of 102.0 g (0.361 mol) of 2-(5-nitro-2-pyridyl)-1,3-propanedicarboxylate, from Step 1, in 600 mL of 20% aqueous sulfuric acid solution was heated at 95° C. for 24 hours. The resultant solution was poured onto 1 kg of ice and the aqueous mixture was adjusted to a pH within the range pH 10-12 with 50% aqueous sodium hydroxide solution. The precipitate was filtered and dissolved in ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated to a solid residue. The residue was washed with hexane. The hexane was removed by filtration and the solid was dried to afford 45.86 g (92% yield) of the title compound; 1H NMR (CDCl3) d 2.71 (s, 3H), 7.36 (d, 1H, J=9.0 Hz), 8.37 (dd, 1H, J=3.0 Hz, 9.0 Hz), 9.33 (d, 1H, J=3.0 Hz).

reactant | 2-(5-nitro-2-pyridyl)-1,3-propanedicarboxylate | 0.361 mol, 102.0 g | [N+](=O)([O-])C=1C=CC(=NC1)C(CC(=O)[O-])CC(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 600 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Nitro-2-picoline | 45.86 g, 92% yield | [N+](=O)([O-])C=1C=CC(=NC1)C | C6H6N2O2
